US05164514
Stage A: 4-carbobenzyloxy 1-phenylpiperazine.
A solution of 4.4 g of benzyl chloroformate in toluene is added to a solution comprising 4.05 g of N-phenylpiperazine in 50 cm3 of benzene and 2.5 g of triethylamine, at a temperature between +5° C. and +10° C. The whole is allowed to return to ambient temperature and agitated for 2 hours. The triethylamine chloride is filtered off and evaporated to dryness. An oily residue is obtained which is solidified in n-hexane and 7.1 g of expected product is recovered.

reactant | benzyl chloroformate | 4.4 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-phenylpiperazine | 4.05 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 50 cm3 | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
solvent | n-hexane | CCCCCC | C6H14
product | 4-carbobenzyloxy 1-phenylpiperazine | C(=O)(OCC1=CC=CC=C1)N1CCN(CC1)C1=CC=CC=C1 | C18H20N2O2
